US07326791B2
3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(4-oxo-4,5,6,7-tetrahydroindol 1-yl)benzamide
Prepared analogously to Example 1g from 4-(4-oxo-4,5,6,7-tetrahydroindol-1-yl)benzoic acid, TBTU, diisopropylethylamine, and (1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine in tetrahydrofuran. Yield: 54%; Rf value: 0.41 (silica gel: ethyl acetate); C24H20Cl2N4O2 (467.354); mass spectrum: (M+H)+=467/469/471 (chlorine isotope).

reactant | 4-(4-oxo-4,5,6,7-tetrahydroindol-1-yl)benzoic acid | O=C1C=2C=CN(C2CCC1)C1=CC=C(C(=O)O)C=C1 | C15H13NO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine | ClC1=CC2=C(NC(=N2)[C@H](C)N)C=C1 | C9H10ClN3
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(4-oxo-4,5,6,7-tetrahydroindol 1-yl)benzamide | Yield: 54% | ClC=1C=C(C(=O)N[C@@H](C)C2=NC3=C(N2)C=CC(=C3)Cl)C=CC1N1C=CC=3C(CCCC13)=O | C24H20Cl2N4O2
